US03962307
A mixture of 30 parts of 2-bromo-1-tert-butyl-4-nitrobenzene and 30 parts of chloromethylmethyl ether is stirred vigorously while adding dropwise 20 parts of 60% fuming sulfuric acid. The resultant mixture is allowed to stand until the apparent reaction ceases and is then poured into ice water. The solid is removed by filtration and washed with water to give 3-bromo-2-tert-butyl-5-nitrobenzyl chloride.

reactant | 2-bromo-1-tert-butyl-4-nitrobenzene | BrC1=C(C=CC(=C1)[N+](=O)[O-])C(C)(C)C | C10H12BrNO2
reactant | chloromethylmethyl ether | ClCOC | C2H5ClO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3-bromo-2-tert-butyl-5-nitrobenzyl chloride | BrC=1C(=C(CCl)C=C(C1)[N+](=O)[O-])C(C)(C)C | C11H13BrClNO2
